US07618961B2
4-(Chloromethyl)-1,3-thiazol-2-ylamine hydrochloride
A solution of 1,3-dichloroacetone (25.4 g, 200 mmol) in acetone (100 mL) was stirred while a solution of thiourea (15.2 g, 200 mmol) in acetone (500 mL) was dropped in at a fairly rapid rate. A clear oil began to separate when the addition was about one quarter complete. The mixture stood over night during which time the oil solidified to a mass of white crystals. After decantation of the acetone, the solid was stirred with EtOH (200 mL). Insoluble material was filtered off and to the solution was petroleumether added. The product separated as an oil which solidified (18 g, 49%): MS (Ionspray, [M+H]+) m/z 148. Anal. Calcd. (found) for C4H5ClN2S.1 HCl: C, 26.0 (26.0)%; H, 3.3 (3.2)%; N, 15.1 (15.1)%.

reactant | 1,3-dichloroacetone | 200 mmol, 25.4 g | ClCC(=O)CCl | C3H4Cl2O
reactant | thiourea | 200 mmol, 15.2 g | NC(=S)N | CH4N2S
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 4-(Chloromethyl)-1,3-thiazol-2-ylamine hydrochloride | Cl.ClCC=1N=C(SC1)N | InChI=1S/C4H5ClN2S.ClH/c5-1-3-2-8-4(6)7-3;/h2H,1H2,(H2,6,7);1H
